US04395415
61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride, dissolved in 500 ml of glacial acetic acid, are mixed with 28 g of 4,6-dimethyl-2-mercaptopyrimidine and 16.4 g of sodium acetate at 20° C. After 12 hours, the precipitate is filtered off, washed with water and dried over potassium hydroxide. 75 g (91% of theory) of 4,6-dimethylpyrimidin-2-yl-dithio-(4-nitro-2-trichloromethylbenzene), of melting point 151° C., are obtained.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 4,6-dimethyl-2-mercaptopyrimidine | 28 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 4,6-dimethylpyrimidin-2-yl-dithio-(4-nitro-2-trichloromethylbenzene) | 75 g, 91% | CC1=NC(=NC(=C1)C)SSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl | C13H10Cl3N3O2S2
